US08476432B2
N-[5-bromomethyl-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-2-yl]-N-methyl-methanesulfonamide (55.3 g) and toluene (500.0 mL) were added to a reactor. The reaction mixture was cooled to 0˜5° C. and then tributylphosphine (35.0 mL) was added thereto. The temperature of the reaction mixture was raised to 10˜20° C. The reaction mixture was stirred at the same temperature for 3 hours and then filtered under reduced pressure. The resulting white solid was washed with toluene (331.0 mL) and then dried under reduced pressure to obtain tributyl[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-ylmethyl]phosphonium bromide as a white solid (80.1 g, yield 97.6%).

reactant | N-[5-bromomethyl-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-2-yl]-N-methyl-methanesulfonamide | 55.3 g | BrCC=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F | C16H19BrFN3O2S
reactant | tributylphosphine | 35.0 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 500.0 mL | C1(=CC=CC=C1)C | C7H8
product | tributyl[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-ylmethyl]phosphonium bromide | 80.1 g, yield 97.6% | [Br-].C(CCC)[P+](CC=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F)(CCCC)CCCC | InChI=1S/C28H46FN3O2PS.BrH/c1-8-11-18-35(19-12-9-2,20-13-10-3)21-25-26(22(4)5)30-28(32(6)36(7,33)34)31-27(25)23-14-16-24(29)17-15-23;/h14-17,22H,8-13,18-21H2,1-7H3;1H/q+1;/p-1
